US04140793
2,5-Dichloro-N-(2-hexahydropyrimidinylidene)-1H-pyrrol-1-acetamide
By a procedure analogous to Example 8, 2-amino-1,4,5,6-tetrahydropyrimidine is reacted with methyl (2,5-dichloro-1H-pyrrol-1-yl)acetate to give the title compound.

reactant | 2-amino-1,4,5,6-tetrahydropyrimidine | NC=1NCCCN1 | C4H9N3
reactant | methyl (2,5-dichloro-1H-pyrrol-1-yl)acetate | ClC=1N(C(=CC1)Cl)CC(=O)OC | C7H7Cl2NO2
product | 2,5-Dichloro-N-(2-hexahydropyrimidinylidene)-1H-pyrrol-1-acetamide | ClC=1N(C(=CC1)Cl)CC(=O)N=C1NCCCN1 | C10H12Cl2N4O
